US08309718B2
Step 2. 3-cyclopropyl-3-[4-(5-methoxy-2-{[3-(1,3-oxazol-5-yl)phenyl]amino}pyrimidin-4-yl)-1H-pyrazol-1-yl]propanenitrile
A mixture of 3-[4-(2-chloro-5-methoxypyrimidin-4-yl)-1H-pyrazol-1-yl]-3-cyclopropylpropanenitrile (20 mg, 0.00008 mol), 3-(1,3-oxazol-5-yl)aniline (18.1 mg, 0.000113 mol), and p-toluenesulfonic acid (11 mg, 0.000064 mol) in dry 1,4-dioxane (0.5 mL, 0.006 mol) was refluxed overnight. The mixture was diluted with acetonitrile and water, purified on RP-HPLC at pH 10 to give the desired product as a racemic mixture (free base). LCMS (M+H) 428.1.

reactant | 3-[4-(2-chloro-5-methoxypyrimidin-4-yl)-1H-pyrazol-1-yl]-3-cyclopropylpropanenitrile | 0.00008 mol, 20 mg | ClC1=NC=C(C(=N1)C=1C=NN(C1)C(CC#N)C1CC1)OC | C14H14ClN5O
reactant | 3-(1,3-oxazol-5-yl)aniline | 0.000113 mol, 18.1 mg | O1C=NC=C1C=1C=C(N)C=CC1 | C9H8N2O
reactant | p-toluenesulfonic acid | 0.000064 mol, 11 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 1,4-dioxane | 0.006 mol, 0.5 mL | O1CCOCC1 | C4H8O2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
product | 3-cyclopropyl-3-[4-(5-methoxy-2-{[3-(1,3-oxazol-5-yl)phenyl]amino}pyrimidin-4-yl)-1H-pyrazol-1-yl]propanenitrile | C1(CC1)C(CC#N)N1N=CC(=C1)C1=NC(=NC=C1OC)NC1=CC(=CC=C1)C1=CN=CO1 | C23H21N7O2
